Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with recent history of admission for acute appendicitis
complicated by extensive phlegmon treated with antibiotics
(___) returns to the ED with RLQ pain. Patient reports that
his pain had completely subsided after discharge and he was
feeling well when the pain in the RLQ retuned approximately 5
days ago (although milder than his first episode at the time of
initial presentation) and he has had nausea and emesis in the
morning as well. He has had loose bowel movements since 
discharge
but he attributed that to the antibiotics. He does not report
fevers or chills and he has been eating and drinking without
problems. He is still taking Cipro/Flagyl (course due to end
tomorrow).
 
Past Medical History:
Past Medical History:  
Alcohol abuse

Past Surgical History: 
None 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
Vitals:97.9 100 123/84 20 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, mildly ttp in the right periumbilical
region and the RLQ
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.1, 53, 119/76, 18, 96%
Gen: A&O x3, lying comfortably in bed NAD
CV: HRR
Pulm: LS ctab
Abd: soft, NT/ND
Ext: No edema

 
Pertinent Results:
___ 07:50AM BLOOD WBC-6.3# RBC-4.01* Hgb-12.9* Hct-38.1* 
MCV-95 MCH-32.2* MCHC-33.9 RDW-11.9 RDWSD-41.3 Plt ___
___ 07:20AM BLOOD WBC-13.1* RBC-4.61 Hgb-14.4 Hct-43.3 
MCV-94 MCH-31.2 MCHC-33.3 RDW-12.1 RDWSD-41.9 Plt ___
___ 03:00PM BLOOD WBC-11.9*# RBC-4.97# Hgb-15.6# Hct-45.6# 
MCV-92 MCH-31.4 MCHC-34.2 RDW-11.9 RDWSD-40.0 Plt ___
___ 07:50AM BLOOD Glucose-120* UreaN-9 Creat-0.6 Na-140 
K-4.1 Cl-104 HCO3-24 AnGap-16
___ 07:20AM BLOOD Glucose-96 UreaN-13 Creat-0.8 Na-143 
K-4.1 Cl-104 HCO3-25 AnGap-18
___ 03:00PM BLOOD Glucose-109* UreaN-8 Creat-0.7 Na-143 
K-4.1 Cl-103 HCO3-25 AnGap-19
___ 07:50AM BLOOD Calcium-8.0* Phos-2.9 Mg-1.9

___: 
CT A/P-  
Interval improvement in the appearance of the appendix, now 
measuring 
top-normal in size with only minimal residual periappendiceal 
fat stranding. 

 
Brief Hospital Course:
___ with recent history of admission for acute appendicitis 
complicated by extensive phlegmon treated with antibiotics 
returning to the ED with RLQ pain, nausea, vomiting. The 
patient's abdomen is soft but still mildly tender to palpation 
to the RLQ. WBC mildly elevated to 11.9. CT shows improvement in 
the degree of inflammation of the appendix. The patient was 
admitted to the General Surgery service for bowel rest, 
antibiotics, and serial abdominal exams. The patient was 
hemodynamically stable.

Pain resolved and abdominal exam improved. WBC count normalized 
by HD2. Diet was progressively advanced as tolerated to a 
regular diet with good tolerability. Antibiotics were 
discontinued, as the patient had completed the course. The 
patient voided without problem. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and denied pain.  
The patient was discharged home without services. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan. 
He was to follow-up in the ___ clinic to discuss an interval 
appendectomy. 

 
Medications on Admission:
Cipro, Flagyl, tyleno prn
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Polyethylene Glycol 17 g PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain. A repeat CT scan 
showed that the inflammation from your appendicitis is all 
improving. You were placed on bowel rest and given antibiotics. 
Your pain is now improved and your lab work is normal. You are 
tolerating a regular diet. You are medically cleared to be 
discharged home to continue your recovery. Please note the 
following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___